US06747050B1
Synthesis of 3-[(1S)-1-(9-Fluorenylmethyloxycarbonylamino)-3-t-butoxycarbonyl-propyl]-5-methyl-4,5-dihydro-isoxazole-5-carboxylic Acid Methyl Ester
A solution of 4-(9-fluorenylmethoxycarbonyl)amino-(4S)-5-chloro-5-hydroxy-imino-pentanoic acid t-butyl ester (3.44 g, 7.50 mmol) and methyl methacrylate (2.40 mL, 3.0 eq) in dry ether under N2 at −78° C. was treated with EtN(i-Pr)2 (1.96 mL, 1.5 eq). Similar treatment as described previously followed by flash chromatography with 25-30% ethyl acetate/hexanes gave 3.46 g (89% overall) of the title compound as diastereomeric mixture.

reactant | 4-(9-fluorenylmethoxycarbonyl)amino-(4S)-5-chloro-5-hydroxy-imino-pentanoic acid t-butyl ester | 7.50 mmol, 3.44 g | C(C)(C)(C)OC(C(C[C@@H](C(O)Cl)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=N)=O | C24H27ClN2O5
reactant | methyl methacrylate | 2.40 mL, 3.0 eq | C(C(=C)C)(=O)OC | C5H8O2
reactant | EtN(i-Pr)2 | 1.96 mL, 1.5 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ether | CCOCC | C4H10O
product | 3-[(1S)-1-(9-Fluorenylmethyloxycarbonylamino)-3-t-butoxycarbonyl-propyl]-5-methyl-4,5-dihydro-isoxazole-5-carboxylic Acid Methyl Ester | COC(=O)C1(CC(=NO1)[C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C29H34N2O7
